US06127422
N-t-Butoxycarbonyl-4-carboxy-piperidine
To a solution of 1.0 g (7.74 mmol) of 4-carboxy-piperidine in 40 ml of a 1:1 water/dioxane mixture, was added 3.2 g (23.2 mmol) of potassium carbonate (K2CO3) followed by 2.1 ml (9.3 mmol) of di(t-butyl)dicarbonate (BOC2O). After 2 hours, the mixture was diluted with methylene chloride (CH2Cl2). The resulting layers were separated and the organic layer was dried over sodium sulfate (Na2SO4), filtered and concentrated in vacuo. The crude material was recrystallized from a 3:1 hot EtOAc/hexanes (EtOAc/hexanes) mixture.

reactant | 4-carboxy-piperidine | 7.74 mmol, 1.0 g | C(=O)(O)C1CCNCC1 | C6H11NO2
reactant | potassium carbonate | 23.2 mmol, 3.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | di(t-butyl)dicarbonate | 9.3 mmol, 2.1 ml | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water dioxane | 40 ml | O.O1CCOCC1
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-t-Butoxycarbonyl-4-carboxy-piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
